spice
* SPICE Netlist for the given schematic

VCC 3 0 DC 2.5V
Vin 5 0 DC 0V

R1 3 3 50k
R2 3 3 1k
R3 5 4 1k
R4 1 0 2k

C1 5 4 <value>
C2 1 0 <value>

Q1 3 4 1 QNPN   ; NPN transistor labeled Q1

.model QNPN NPN(IS=1e-14 BF=200)

.end